US07148227B2
Preparation of Diethyl 4-cyanophenylmalonate
Diethyl malonate (0.49 mol) was added at approximately 60° C. over 2 hours to a suspension of sodium hydride (0.51 mol) in 140 ml of 1,4-dioxane. After stirring for a further 10 min, 0.05 mol of CuBr were added. After 15 min, 0.25 mol of 4-cyanobromobenzene in 10 ml of dioxane were added. The reaction mixture was maintained at 100° C. for approximately 14 hours and then, at approximately 15° C., 35 ml of 12N hydrochloric acid were slowly added. The precipitate was filtered off and the filtrate was extracted with diethyl ether. After phase separation, the organic phase was dried and then freed from the solvent. 32 g of the title compound remained.

reactant | Diethyl malonate | 0.49 mol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.51 mol | [H-].[Na+]
reactant | 4-cyanobromobenzene | 0.25 mol | C(#N)C1=CC=C(C=C1)Br | C7H4BrN
reactant | hydrochloric acid | 12N, 35 ml | Cl | ClH
solvent | 1,4-dioxane | 140 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | Diethyl 4-cyanophenylmalonate | C(#N)C1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C14H15NO4
